US06225310B1
b) 2-Amino-4-methyl-thiophene-3-sulfonamide
A mixture of cyanomethanesulfonamide (1.0 g), 2,5-dihydroxy-2,5-dimethyl-1,4-dithiane (0.75 g), and triethylamine (100 μl) in absolute ethanol (7 ml) was heated at 45-50° C. under nitrogen for 3 h. Then the solvent was evaporated and the residue partitioned in water (30 ml) and ethyl acetate (50 ml). The aqueous phase was extracted with 4×50 ml of ethyl acetate. The combined ethyl acetate phases were dried over sodium sulfate and evaporated. The residue was purified by column chromatography on silica gel eluted with ethyl acetate. The title compound was obtained as a yellow solid, yield 0.65 (41%); m.p. 142-144° C.; 1H-NMR (CD3OD), δ(ppm): 7.19 (s, 1 H, C(5)H), 4,88 (br, 4 H, SO2NH2+H2O), 4.71 (s, 2 H, NH2), 2.41 (s, 3 H, CH3); MS: 192 (M+), 112 (M+—SO2NH2), 72 (CH3—C2HS+).

reactant | cyanomethanesulfonamide | 1.0 g | C(#N)CS(=O)(=O)N | C2H4N2O2S
reactant | 2,5-dihydroxy-2,5-dimethyl-1,4-dithiane | 0.75 g | OC1(SCC(SC1)(C)O)C | C6H12O2S2
reactant | triethylamine | 100 μl | C(C)N(CC)CC | C6H15N
solvent | ethanol | 7 ml | C(C)O | C2H6O
product | 2-Amino-4-methyl-thiophene-3-sulfonamide | NC=1SC=C(C1S(=O)(=O)N)C | C5H8N2O2S2
